** sch_path: /home/matt/work/asic-workshop/shuttle-tt08/tt08-analog-r2r-dac-3v3/xschem/dac_drive.sch
.subckt dac_drive VAPWR VDPWR ctrl out VGND
*.PININFO ctrl:I VGND:B VDPWR:B VAPWR:B out:O
XM8 ctrl_n ctrl VDPWR VDPWR sky130_fd_pr__pfet_01v8_hvt L=0.15 W=1 nf=1 m=1
XM7 ctrl_n ctrl VGND VGND sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 m=1
XM11 m9m11 m10m12 VAPWR VAPWR sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM9 m9m11 ctrl VGND VGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM10 m10m12 ctrl_n VGND VGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM12 m10m12 m9m11 VAPWR VAPWR sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM1 out_drive m10m12 VAPWR VAPWR sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.84 nf=1 m=1
XM2 out_drive m10m12 VGND VGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM3 out out_drive VAPWR VAPWR sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=9 nf=3 m=1
XM4 out out_drive VGND VGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=3 nf=1 m=1
.ends
.end
